US04302455
Step A: Preparation of 6-chloro-2-(4-oxopiperidino)pyrazine
A solution of 3.0 g (20 mmol) 2,6-dichloropyrazine, 2.0 g (20 mmol) triethylamine, and 2.9 g (20 mmol) 1,4-dioxa-8-azaspiro[4.5]decane in 60 ml acetonitrile is refluxed 17 hours. The solvent is removed in vacuo, and the residue is dissolved in ethylacetate. After washing with water and brine, the organic fraction is dried (MgSO4) and evaporated to an oil. The oil is dissolved in 30 ml acetone and mixed with 30 ml 1N HCl. After heating this solution on the steam bath 30 minutes, the acetone is evaporated, and the concentrate is cooled to 10° C. A solid separates which is filtered and dried to afford 3 g (71%) of the desired product.

reactant | 2,6-dichloropyrazine | 20 mmol, 3.0 g | ClC1=NC(=CN=C1)Cl | C4H2Cl2N2
reactant | triethylamine | 20 mmol, 2.0 g | C(C)N(CC)CC | C6H15N
reactant | 1,4-dioxa-8-azaspiro[4.5]decane | 20 mmol, 2.9 g | O1CCOC12CCNCC2 | C7H13NO2
solvent | acetonitrile | 60 ml | C(C)#N | C2H3N
product | 6-chloro-2-(4-oxopiperidino)pyrazine | 3 g, 71% | ClC1=CN=CC(=N1)N1CCC(CC1)=O | C9H10ClN3O
